* NGSPICE file created from st_1v1.ext - technology: ihp-sg13g2

.subckt st_1v1 VDD A Y VSS
X0 a_142_n38# Y VSS.t2 VDD sg13_lv_pmos ad=51f pd=0.94u as=51f ps=0.94u w=0.6u l=0.13u
X1 Y A a_142_n38# VDD sg13_lv_pmos ad=51f pd=0.94u as=28.5f ps=0.49u w=0.6u l=0.13u
X2 a_142_n594# A VSS VSS.t0 sg13_lv_nmos ad=28.5f pd=0.49u as=51f ps=0.94u w=0.6u l=0.13u
X3 VDD Y a_142_n594# VSS.t3 sg13_lv_nmos ad=51f pd=0.94u as=51f ps=0.94u w=0.6u l=0.13u
X4 Y A a_142_n594# VSS.t1 sg13_lv_nmos ad=51f pd=0.94u as=28.5f ps=0.49u w=0.6u l=0.13u
X5 a_142_n38# A VDD VDD sg13_lv_pmos ad=28.5f pd=0.49u as=51f ps=0.94u w=0.6u l=0.13u
R0 VSS.n2 VSS.t0 666.129
R1 VSS.t0 VSS.t3 212.429
R2 VSS.t3 VSS.t1 9.2
R3 VSS.t2 VSS.n1 1.63957
R4 VSS.n2 VSS.t1 1.59319
R5 VSS VSS.n1 1.46263
R6 VSS.n0 VSS.n2 1.39685
R7 VSS.n2 VSS.n1 1.39685
R8 VSS.n0 VSS.t2 1.07146
R9 VSS VSS.n0 1.03386
C0 VDD a_142_n38# 0.06239f
C1 A a_142_n38# 0.06569f
C2 Y a_142_n38# 0.08992f
C3 VDD a_142_n594# 0.04429f
C4 A a_142_n594# 0.06569f
C5 VDD A 0.57625f
C6 Y a_142_n594# 0.08992f
C7 VDD Y 0.28799f
C8 A Y 0.07738f
C9 a_142_n594# VSS 0.27495f
C10 a_142_n38# VSS 0.75682f
C11 VDD VSS 0.77204f
C12 VSS.t2 VSS 0.28565f
.ends

