* NGSPICE file created from st_1v1.ext - technology: ihp-sg13g2

.subckt st_1v1 VDD A Y VSS
X0 a_142_n38# Y VSS.t2 VDD sg13_lv_pmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X1 Y A a_142_n38# VDD sg13_lv_pmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.13u
X2 a_142_n594# A VSS VSS.t0 sg13_lv_nmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.13u
X3 VDD Y a_142_n594# VSS.t3 sg13_lv_nmos ad=0.204p pd=1.88u as=0.204p ps=1.88u w=0.6u l=0.13u
X4 Y A a_142_n594# VSS.t1 sg13_lv_nmos ad=0.204p pd=1.88u as=0.114p ps=0.98u w=0.6u l=0.13u
X5 a_142_n38# A VDD VDD sg13_lv_pmos ad=0.114p pd=0.98u as=0.204p ps=1.88u w=0.6u l=0.13u
R0 VSS.n1 VSS.t0 666.129
R1 VSS.t0 VSS.t3 212.429
R2 VSS.t3 VSS.t1 9.2
R3 VSS VSS.t2 1.98121
R4 VSS.n1 VSS.n0 0.39753
R5 VSS VSS.n0 1.05939
R6 VSS.t2 VSS.n0 1.26213
R7 VSS.n1 VSS.t1 1.59319
C0 a_142_n594# A 0.06569f
C1 Y a_142_n594# 0.08992f
C2 Y A 0.07738f
C3 VDD a_142_n594# 0.04429f
C4 VDD A 0.58215f
C5 VDD Y 0.29535f
C6 A a_142_n38# 0.06569f
C7 Y a_142_n38# 0.08992f
C8 VDD a_142_n38# 0.06239f
C9 a_142_n594# VSS 0.27643f
C10 a_142_n38# VSS 0.76349f
C11 VDD VSS 0.7905f
C12 VSS.t2 VSS 0.28935f
.ends

